US07612055B2
h) 2-Ethoxy-6-pent-4-enylamino-isonicotinic acid example 13
The title compound is prepared by stirring 2-ethoxy-6-pent-4-enylamino-isonicotinic acid tert-butyl ester 18 h in neat trifluoroacetic acid. Evaporation of the TFA gives the title compound that is used in the next step without purification.

reactant | 2-ethoxy-6-pent-4-enylamino-isonicotinic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=NC(=C1)NCCCC=C)OCC)=O | C17H26N2O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Ethoxy-6-pent-4-enylamino-isonicotinic acid | C(C)OC=1C=C(C(=O)O)C=C(N1)NCCCC=C | C13H18N2O3
